US04480114
120 ml of dimethylsulphoxide are added to 3.6 g (0.12 mol) of 80% strength sodium hydride and 26.4 g (0.12 mol) of trimethyloxosulphonium iodide in the course of 20 minutes. When the evolution of hydrogen has ended, a solution of 25.8 g (0.1 mol) of 4-biphenylyl phenyl ketone in 150 ml of dimethylsulphoxide is added dropwise and the mixture is subsequently stirred at 60° C. for 2 hours. 300 ml of water are added dropwise to the reaction mixture obtained. The resulting oil is separated off from the aqueous phase and dissolved in chloroform and the solution is washed with water, dried over sodium sulphate and concentrated by distilling off the solvent in vacuo. The crude 2-(4-biphenylyl)-2-phenyl-oxirane thus obtained is dissolved in 150 ml of dimethylformamide. This solution is added dropwise to a mixture of 7 g (0.13 mol) of sodium methylate, 40 ml of methanol and 15 g (0.22 mol) of imidazole. The reaction mixture is heated to 80° C. for 4 hours. Thereafter, it is concentrated in vacuo, the residue is poured onto water and the crystals which form are filtered off and washed with acetonitrile. 26.7 g (83.5% of theory) of 1-(4-biphenylyl)-2-(imidazol-1-yl)-1-phenyl-ethanol of melting point 224° C. are obtained.

reactant | sodium hydride | [H-].[Na+]
reactant | trimethyloxosulphonium iodide | 0.12 mol, 26.4 g | [I-].C[S+](=O)(C)C
reactant | hydrogen | [H][H] | H2
reactant | 4-biphenylyl phenyl ketone | 0.1 mol, 25.8 g | C1(=CC=CC=C1)C(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C19H14O
reactant | sodium methylate | 0.13 mol, 7 g | C[O-].[Na+]
reactant | imidazole | 0.22 mol, 15 g | N1C=NC=C1 | C3H4N2
solvent | dimethylsulphoxide | 150 ml | CS(=O)C | C2H6OS
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | dimethylsulphoxide | 120 ml | CS(=O)C | C2H6OS
solvent | methanol | 40 ml | CO | CH4O
solvent | water | 300 ml | O | H2O
product | 1-(4-biphenylyl)-2-(imidazol-1-yl)-1-phenyl-ethanol | 26.7 g, 83.5% | C1(=CC=C(C=C1)C(CN1C=NC=C1)(O)C1=CC=CC=C1)C1=CC=CC=C1 | C23H20N2O
